US07244730B2
(Step 3) [6-(2-Bromoacetyl)-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide
Triethylamine (0.76 ml, 5.5 mmol) and tert-butyl dimethylsilyltrifluoromethanesulfonate (0.73 g, 5.5 mmol) were added to a solution of [6-acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide (0.5 g, 1.8 mmol) in tetrahydrofuran (50 ml) while cooling on ice and the mixture was stirred at the same temperature for 30 minutes, after which N-bromosuccinimide (0.49 g, 2.7 mmol) was added and stirring was continued for 30 minutes. Ethyl acetate was added, the reaction mixture was washed with brine and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and then the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (310 mg) as a light yellow solid.

reactant | Triethylamine | 5.5 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | [6-acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide | 1.8 mmol, 0.5 g | C(C)(=O)C=1C=C(C2=C(N(CCO2)CC#N)C1)C(C)(C)C | C16H20N2O2
reactant | N-bromosuccinimide | 2.7 mmol, 0.49 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [6-(2-Bromoacetyl)-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-4-yl]methyl cyanide | 310 mg | BrCC(=O)C=1C=C(C2=C(N(CCO2)CC#N)C1)C(C)(C)C | C16H19BrN2O2
